
** Library name: adaptive_ota
** Cell name: ota_w_bias
** View name: schematic
.subckt ota_w_bias ib inm inp iout out vdda
mfb iout vp2 vdda vdda pmos L=4 W=8 M=20
m2 vp2 vp2 vdda vdda pmos L=4 W=8 M=2
mo out vp vdda vdda pmos L=4 W=8 M=5
mob vp vp vdda vdda pmos L=4 W=8 M=5
m0 net8 vp vdda vdda pmos L=4 W=8 M=1
madd vp2 vn 0 0 nmos L=4 W=4 M=2
mdiff vn vn 0 0 nmos L=4 W=4 M=2
m1 net8 ib 0 0 nmos L=4 W=4 M=3
mim out inm tail 0 nmos L=4 W=4 M=5
msrc tail ib 0 0 nmos L=4 W=4 M=20
mip vp inp tail 0 nmos L=4 W=4 M=5
r1 net8 vn 10e3
.ends ota_w_bias
** End of subcircuit definition.

** Library name: adaptive_ota
** Cell name: bias
** View name: schematic
.subckt bias ib ib_d ib_s
mbias ib_s ib_s 0 0 nmos L=4 W=4 M=20
r0 ib_s ib_d 10e-3
r1 ib_s ib 10e-3
.ends bias
** End of subcircuit definition.

** Library name: adaptive_ota
** Cell name: ota_AB
** View name: schematic
.subckt ota_AB inp inm ibias vdda out
xiamp ib inm inp ib_fb out vdda ota_w_bias
xibias ib ib_fb ibias bias
.ends
