
* Predictive Technology Model Beta Version
* 180nm NMOS SPICE Parametersv (normal one)
*

.model NMOS NMOS
+Level = 49

+Lint = 4.e-08 Tox = 4.e-09 
+Vth0 = 0.3999 Rdsw = 250 

+lmin=1.8e-7 lmax=1.8e-7 wmin=1.8e-7 wmax=1.0e-4 Tref=27.0 version =3.1
+Xj= 6.0000000E-08         Nch= 5.9500000E+17 
+lln= 1.0000000            lwn= 1.0000000              wln= 0.00
+wwn= 0.00                 ll= 0.00
+lw= 0.00                  lwl= 0.00                   wint= 0.00
+wl= 0.00                  ww= 0.00                    wwl= 0.00
+Mobmod=  1                binunit= 2                  xl=  0
+xw=  0                    binflag=  0
+Dwg= 0.00                 Dwb= 0.00 

+K1= 0.5613000               K2= 1.0000000E-02 
+K3= 0.00                  Dvt0= 8.0000000             Dvt1= 0.7500000 
+Dvt2= 8.0000000E-03       Dvt0w= 0.00                 Dvt1w= 0.00 
+Dvt2w= 0.00               Nlx= 1.6500000E-07          W0= 0.00 
+K3b= 0.00                 Ngate= 5.0000000E+20 

+Vsat= 1.3800000E+05       Ua= -7.0000000E-10          Ub= 3.5000000E-18 
+Uc= -5.2500000E-11        Prwb= 0.00 
+Prwg= 0.00                Wr= 1.0000000               U0= 3.5000000E-02 
+A0= 1.1000000             Keta= 4.0000000E-02         A1= 0.00 
+A2= 1.0000000             Ags= -1.0000000E-02         B0= 0.00 
+B1= 0.00 

+Voff= -0.12350000          NFactor= 0.9000000          Cit= 0.00 
+Cdsc= 0.00                Cdscb= 0.00                 Cdscd= 0.00 
+Eta0= 0.2200000           Etab= 0.00                  Dsub= 0.8000000 

+Pclm= 5.0000000E-02       Pdiblc1= 1.2000000E-02      Pdiblc2= 7.5000000E-03 
+Pdiblcb= -1.3500000E-02   Drout= 1.7999999E-02        Pscbe1= 8.6600000E+08 
+Pscbe2= 1.0000000E-20     Pvag= -0.2800000            Delta= 1.0000000E-02 
+Alpha0= 0.00              Beta0= 30.0000000 

+kt1= -0.3700000           kt2= -4.0000000E-02         At= 5.5000000E+04 
+Ute= -1.4800000           Ua1= 9.5829000E-10          Ub1= -3.3473000E-19 
+Uc1= 0.00                 Kt1l= 4.0000000E-09         Prt= 0.00 

+Cj= 0.00365               Mj= 0.54                    Pb= 0.982
+Cjsw= 7.9E-10             Mjsw= 0.31                  Php= 0.841
+Cta= 0                    Ctp= 0                      Pta= 0
+Ptp= 0                    JS=1.50E-08                 JSW=2.50E-13
+N=1.0                     Xti=3.0                     Cgdo=2.786E-10
+Cgso=2.786E-10            Cgbo=0.0E+00                Capmod= 2
+NQSMOD= 0                 Elm= 5                      Xpart= 1
+Cgsl= 1.6E-10             Cgdl= 1.6E-10               Ckappa= 2.886
+Cf= 1.069e-10             Clc= 0.0000001              Cle= 0.6
+Dlc= 4E-08                Dwc= 0                      Vfbcv= -1


*
* Predictive Technology Model Beta Version
* 180nm PMOS SPICE Parametersv (normal one)
*

.model PMOS PMOS
+Level = 49

+Lint = 3.e-08 Tox = 4.2e-09 
+Vth0 = -0.42 Rdsw = 450 

+lmin=1.8e-7 lmax=1.8e-7 wmin=1.8e-7 wmax=1.0e-4 Tref=27.0 version =3.1
+Xj= 7.0000000E-08         Nch= 5.9200000E+17 
+lln= 1.0000000            lwn= 1.0000000              wln= 0.00
+wwn= 0.00                 ll= 0.00
+lw= 0.00                  lwl= 0.00                   wint= 0.00
+wl= 0.00                  ww= 0.00                    wwl= 0.00
+Mobmod=  1                binunit= 2                  xl= 0.00
+xw= 0.00                  
+binflag=  0               Dwg= 0.00                   Dwb= 0.00 

+ACM= 0                    ldif=0.00                   hdif=0.00
+rsh= 0                    rd= 0                       rs= 0
+rsc= 0                    rdc= 0

+K1= 0.5560000             K2= 0.00 
+K3= 0.00                  Dvt0= 11.2000000            Dvt1= 0.7200000 
+Dvt2= -1.0000000E-02      Dvt0w= 0.00                 Dvt1w= 0.00 
+Dvt2w= 0.00               Nlx= 9.5000000E-08          W0= 0.00 
+K3b= 0.00                 Ngate= 5.0000000E+20 

+Vsat= 1.0500000E+05       Ua= -1.2000000E-10          Ub= 1.0000000E-18 
+Uc= -2.9999999E-11        Prwb= 0.00 
+Prwg= 0.00                Wr= 1.0000000               U0= 8.0000000E-03 
+A0= 2.1199999             Keta= 2.9999999E-02         A1= 0.00 
+A2= 0.4000000             Ags= -0.1000000             B0= 0.00 
+B1= 0.00 

+Voff= -6.40000000E-02      NFactor= 1.4000000          Cit= 0.00 
+Cdsc= 0.00                Cdscb= 0.00                 Cdscd= 0.00 
+Eta0= 8.5000000           Etab= 0.00                  Dsub= 2.8000000 

+Pclm= 2.0000000           Pdiblc1= 0.1200000          Pdiblc2= 8.0000000E-05 
+Pdiblcb= 0.1450000        Drout= 5.0000000E-02        Pscbe1= 1.0000000E-20 
+Pscbe2= 1.0000000E-20     Pvag= -6.0000000E-02        Delta= 1.0000000E-02 
+Alpha0= 0.00              Beta0= 30.0000000 

+kt1= -0.3700000           kt2= -4.0000000E-02         At= 5.5000000E+04 
+Ute= -1.4800000           Ua1= 9.5829000E-10          Ub1= -3.3473000E-19 
+Uc1= 0.00                 Kt1l= 4.0000000E-09         Prt= 0.00 

+Cj= 0.00138               Mj= 1.05                    Pb= 1.24
+Cjsw= 1.44E-09            Mjsw= 0.43                  Php= 0.841
+Cta= 0.00093              Ctp= 0                      Pta= 0.00153
+Ptp= 0                    JS=1.50E-08                 JSW=2.50E-13
+N=1.0                     Xti=3.0                     Cgdo=2.786E-10
+Cgso=2.786E-10            Cgbo=0.0E+00                Capmod= 2
+NQSMOD= 0                 Elm= 5                      Xpart= 1
+Cgsl= 1.6E-10             Cgdl= 1.6E-10               Ckappa= 2.886
+Cf= 1.058e-10             Clc= 0.0000001              Cle= 0.6
+Dlc= 3E-08                Dwc= 0                      Vfbcv= -1


* differential signal conversion
.subckt diffsense vd vc vp vm
e1 vc     0 vol='(v(vp)+v(vm))/2'
e2 vd     0 vp vm     1
* These resistors help suppress "singular node" warnings
rdum1 vd  0   1gig
rdum2 vc  0   1gig
.ends diffsense

.subckt diffdrive vp vm vd vc
e1 vp vc vd 0  0.5
e2 vm vc vd 0  -0.5
.ends diffdrive

* ideal balun
.subckt balun vdm vcm vp vm
e1 vp vcm transformer vdm 0 2
e2 vcm vm transformer vdm 0 2
.ends balun

* blocks for middlebrook loopgain simulation
.subckt looptest x y ai=0 av=0
vx middle x  dc 0
vy middle y  ac 'av'
it 0 middle  ac 'ai'
.ends looptest

.subckt difflooptest xp xm yp ym ai=0 av=0
vxp middlep xp  dc 0
vyp middlep yp  ac 'av'
vxm middlem xm  ac 'av'
vym middlem ym  dc 0
it  middlem middlep  ac 'ai'
.ends difflooptest

